Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo man with medical history of type I
diabetes HTN, and HLD who initially presented to an OSH for
evaluation LT facial weakness and transient dysarthria. There
___ showed RT frontal hypodensity concerning for stroke so he
was given one full dose ASA and transferred to ___ for stroke
management and work up. 

Patient reports was last known well last night at around 11:15pm
when he picked up his wife from work. He went to bed and got up
this morning before 9:00am.  He felt somewhat off.  Went to the
bathroom.  While he was there he noticed that he had abundant
secretions in his nose and mouth.  His wife asked him a question
from downstairs.  He tried to answer but his speech came out
slurred he felt like he was trying to talk through liquid.  Once
his wife saw him she noted the left side of his mouth was 
droopy.
She also noted that his speech sounded like he was drunk.  He
continued his daily activities.  Try to pay some bills online,
but was missed typing his password and never was able to log on. 

At that time they decided to call ___.  He was transferred to an
outside hospital.  Noncontrast head CT showed evidence of right
frontal hypodensity concerning for acute to subacute stroke.

On arrival ___ stroke scale was 2 scoring for left nasolabial
fold flattening as well as left arm extinction to double
simultaneous stimulation.  He was taken for stat noncontrast 
head
CT and CTA head and neck which showed right frontal acute to
subacute stroke and right M3 branch occlusion on preliminary
read.

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. Denies bowel or bladder incontinence 
or
retention. Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.
 
Past Medical History:
DM type I
HTN
HLD

 
Social History:
___
Family History:
Father: ___, prostate cancer, HTN
Mother: ___ cancer
Extensive family history of ___
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: T 97.1  HR 88  BP 160/100  RR 15 100% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Mental Status: Awake, alert, oriented x 3. Attention to examiner
easily maintained. Recalls a coherent history. Able to recite
months of year backwards. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  No paraphasias.  Normal prosody. No dysarthria. Verbal
registration and recall ___. No apraxia. No evidence of
hemineglect. No left-right confusion.

Cranial Nerves: PERRL 2.5->2 brisk. VF full to confrontation.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. LT NLFF (LT upper face droop present in license
picture). Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

Motor: Normal bulk and tone. No drift. No tremor or asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

Sensory: No deficits to light touch or pin bilaterally. LT arm
extinction to DSS.

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response withdrawal bilaterally.

Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

==============
DISCHARGE EXAM
==============
Essentially unchanged. 
 
Pertinent Results:
====
LABS
====
___ 02:55PM BLOOD WBC-10.5* RBC-5.44 Hgb-15.8 Hct-48.0 
MCV-88 MCH-29.0 MCHC-32.9 RDW-13.3 RDWSD-42.7 Plt ___
___ 08:20AM BLOOD WBC-12.7* RBC-5.26 Hgb-15.3 Hct-46.1 
MCV-88 MCH-29.1 MCHC-33.2 RDW-13.3 RDWSD-42.8 Plt ___
___ 07:10AM BLOOD WBC-7.0 RBC-5.39 Hgb-15.4 Hct-47.5 MCV-88 
MCH-28.6 MCHC-32.4 RDW-13.6 RDWSD-43.4 Plt ___
___ 08:15AM BLOOD WBC-10.0 RBC-5.45 Hgb-15.7 Hct-48.1 
MCV-88 MCH-28.8 MCHC-32.6 RDW-13.5 RDWSD-43.0 Plt ___
___ 02:55PM BLOOD Neuts-71.4* Lymphs-16.9* Monos-9.0 
Eos-1.3 Baso-0.6 Im ___ AbsNeut-7.50* AbsLymp-1.77 
AbsMono-0.94* AbsEos-0.14 AbsBaso-0.06
___ 07:10AM BLOOD Neuts-58.4 ___ Monos-11.0 Eos-2.0 
Baso-0.7 Im ___ AbsNeut-4.08 AbsLymp-1.89 AbsMono-0.77 
AbsEos-0.14 AbsBaso-0.05
___ 02:55PM BLOOD ___ PTT-29.4 ___
___ 08:15AM BLOOD ___ PTT-29.8 ___
___ 02:55PM BLOOD Glucose-205* UreaN-18 Creat-1.0 Na-135 
K-4.1 Cl-96 HCO3-25 AnGap-18
___ 08:20AM BLOOD Glucose-233* UreaN-18 Creat-0.9 Na-134 
K-4.1 Cl-98 HCO3-21* AnGap-19
___ 07:10AM BLOOD Glucose-99 UreaN-17 Creat-1.0 Na-140 
K-4.2 Cl-102 HCO3-26 AnGap-16
___ 08:15AM BLOOD Glucose-96 UreaN-16 Creat-1.1 Na-140 
K-4.4 Cl-100 HCO3-23 AnGap-21*
___ 02:55PM BLOOD ALT-83* AST-32 AlkPhos-101 TotBili-0.4
___ 08:20AM BLOOD ALT-65* AST-26 LD(LDH)-254* CK(CPK)-129 
AlkPhos-97 TotBili-0.4
___ 02:55PM BLOOD Lipase-9
___ 08:20AM BLOOD CK-MB-2 cTropnT-<0.01
___ 02:55PM BLOOD Albumin-4.1 Cholest-225*
___ 08:20AM BLOOD Calcium-9.5 Phos-3.4 Mg-1.9
___ 07:10AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.0
___ 02:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

- Stroke risk factors
___ 02:55PM BLOOD %HbA1c-9.1* eAG-214*
___ 02:55PM BLOOD Triglyc-161* HDL-53 CHOL/HD-4.2 
LDLcalc-140*
___ 08:20AM BLOOD TSH-0.63

- Hypercoagulability
___ 08:15AM BLOOD Beta-2-Glycoprotein 1 Antibodies IgG-PND
___ 08:15AM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
___ 08:15AM BLOOD Lupus-PND

=======
IMAGING
=======
- ___ CTA head & neck
1. Subtle, asymmetric loss of gray-white matter differentiation 
in the right insula concerning for acute infarct. 
2. Near occlusion of a single M3 branch of the right MCA in the 
vicinity of suspected infarct. 
3. No hemorrhage. 
4. Remainder of the intracranial arterial vasculature is patent 
without 
additional areas of significant stenosis, occlusion, or aneurysm 
formation. 
5. Patent cervical arterial vasculature without significant 
stenosis, 
occlusion, or dissection. 

- ___ MRI head
1. Study is mildly motion limited. 
2. Known right insular acute to subacute infarct in the right 
MCA territory. 
3. Additional punctate right posterior parietal subcortical 
diffusion acute to 
subacute infarct. 
4. No evidence of hemorrhagic transformation. 

- ___ TTE
The left atrium and right atrium are normal in cavity size. 
There is early appearance of agitated saline/microbubbles in the 
left atrium/ventricle at rest most consistent with an atrial 
septal defect or stretched patent foramen ovale (though a very 
proximal intrapulmonary shunt cannot be fully excluded). Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The right ventricular cavity is mildly dilated 
with normal free wall contractility. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 
 IMPRESSION: Patent foramen ovale. Mildly dilated right 
ventricle. Normal global and regional biventricular systolic 
function. Mild pulmonary hypertension. 

- ___ ___ Venous Doppler
Echogenic material in the left posterior tibial vein with lack 
of wall-to-wall flow and incomplete compressibility, consistent 
with nonocclusive thrombus. 
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with type 1 diabetes, 
hypertension, and hyperlipidemia who presented with symptoms of 
left facial weakness and slurred speech. Exam was essentially 
normal by time of presentation to the hospital. MRI found right 
insular acute to subacute infarct in the right MCA territory and 
an additional punctate right posterior parietal subcortical 
diffusion acute to subacute infarct. The appearance of these 
lesions was concerning for an embolic etiology. TTE found PFO, 
and subsequent lower extremity Doppler studies found a left 
posterior tibial DVT. He was started on apixaban, which will be 
continued indefinitely until follow-up with stroke neurology 
(Dr. ___. He will also obtain genetic hypercoagulability 
labs as an outpatient (Factor V Leiden, Prothrombin mutation), 
and others are pending (lupus anticoagulant, anti-cardiolipin, 
beta-2 macroglobulin). His LDL was elevated at 140, so his 
statin therapy was intensified from simvastatin 40mg to 
atorvastatin 40mg DAILY. He was seen by ___ diabetes 
specialists due to his elevated A1c of 9.1%. We discussed 
lifestyle modifications including increasing exercise, less 
sitting at work, and intensive dietary modifications such as the 
___ Diet, which he had in fact done before. To rule-out 
superimposed a-fib he will also have a 30-day event monitor 
placed following discharge. 
- The cause of his unilateral DVT should be further 
investigated, particularly for malignancy. CT torso and slightly 
earlier screening colonoscopy should be considered. Consultation 
of hematology should also be considered since he is fairly young 
for a DVT. 
- Pick-up 30 day event monitor as an outpatient. 
- Obtain labs for Factor V Leiden and Prothrombin gene mutation 
analysis. 
- Follow-up with Dr. ___ in ___. 

========================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 140 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - (x) No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - for DVT () No - () N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Lisinopril 40 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Target glucose: 80-180

5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*4 
2.  Atorvastatin 40 mg PO DAILY 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*4 
3.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)
Target glucose: 80-180
 
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized due to symptoms of facial weakness and 
slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Diabetes
- Hypertension
- High cholesterol
- ASD/PFO (atrial septal defect/patent foramen ovale)
- DVT (deep venous thrombosis) 
 
We are changing your medications as follows:  
- STOP simvastatin.
- START atorvastatin (Lipitor) 40mg EVERY NIGHT. This is more 
potent than simvastatin. 
- START apixaban (Eliquis) 5mg TWICE PER DAY. You will continue 
this medicine until told otherwise by Dr. ___. 
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___